US09085555B2
C. 3-Chloro-2-fluoro-5-(2H-tetrazol-5-yl)-benzylamine, hydrochloride
To a solution of [3-chloro-2-fluoro-5-(2H-tetrazol-5-yl)-benzyl]-carbamic acid tert-butyl ester (1.06 g, 3.23 mmol) in dioxane (20 mL) was added a 4M HCl solution in dioxane (8.09 mL, 32.3 mmol). The reaction mixture was stirred at RT for 72 h and then freeze-dried overnight to afford the title compound as a white solid. MS (LC/MS): 228.0 [M+H]+; tR (HPLC conditions c): 2.68 min.

reactant | [3-chloro-2-fluoro-5-(2H-tetrazol-5-yl)-benzyl]-carbamic acid tert-butyl ester | 3.23 mmol, 1.06 g | C(C)(C)(C)OC(NCC1=C(C(=CC(=C1)C=1N=NNN1)Cl)F)=O | C13H15ClFN5O2
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 32.3 mmol, 8.09 mL | O1CCOCC1 | C4H8O2
product | 3-Chloro-2-fluoro-5-(2H-tetrazol-5-yl)-benzylamine, hydrochloride | Cl.ClC=1C(=C(CN)C=C(C1)C=1N=NNN1)F | InChI=1S/C8H7ClFN5.ClH/c9-6-2-4(8-12-14-15-13-8)1-5(3-11)7(6)10;/h1-2H,3,11H2,(H,12,13,14,15);1H
